US08835428B2
Step 3: 2-[(3-{4-[3-(2-Fluoro-phenyl)ureido]-phenyl}-isoxazole-5-carbonyl)-amino]-3-methyl-butyric acid methyl ester
3-(4-(3-(2-fluorophenyl)ureido)phenyl)isoxazole-5-carboxylic acid (1 g) was dissolved in DMF (20 ml). N,N′-Dicyclohexyl carbodiimide (906 mg) and 1-Hydroxy benzotriazole (396 mg) were added and the reaction mixture was stirred at RT for 15 minutes. L-Valine methyl ester hydrochloride (640 mg) was dissolved in DMF (5 ml), neutralized with TEA (0.53 ml) and added into the above reaction mixture, which was then stirred at RT for 16 h. DMF was removed under reduced pressure to get a pale brown solid which was taken in water and extracted with EtOAc. Organic layer was dried over Na2SO4 and concentrated to get a pale yellow solid which was purified by silica gel column chromatography in 2:8 EtOAc:CHCl3 to get off white solid which was crystallized from DCM/Pet ether to yield 1.1 gm (82%) white solid. 1HNMR (DMSO-d6, 300 MHz): δ 9.33 (s, 1H), 9.18 (d, 1H), 8.62 (s, 1H), 8.13 (m, 1H), 7.85 (d, 2H), 7.67 (s, 1H), 7.59 (d, 2H), 7.24 (m, 1H), 7.16 (m, 1H), 7.02 (m, 1H), 4.29 (m, 2H), 3.66 (s, 3H), 2.2 (m, 1H), 0.95 (d, 6H); MS (ES+): m/z 455 (M+1).

reactant | 3-(4-(3-(2-fluorophenyl)ureido)phenyl)isoxazole-5-carboxylic acid | 1 g | FC1=C(C=CC=C1)NC(NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)O)=O | C17H12FN3O4
reactant | N,N′-Dicyclohexyl carbodiimide | 906 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-Hydroxy benzotriazole | 396 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | L-Valine methyl ester hydrochloride | 640 mg | Cl.COC([C@@H](N)C(C)C)=O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[(3-{4-[3-(2-Fluoro-phenyl)ureido]-phenyl}-isoxazole-5-carbonyl)-amino]-3-methyl-butyric acid methyl ester | 1.1 gm, 82% | COC(C(C(C)C)NC(=O)C1=CC(=NO1)C1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)F)=O | C23H23FN4O5
